US07514419B2
To a solution of diethyl 3,5-dichloro-4-(3′-iso-propyl-4′-methoxyphenoxy)benzylphosphonate (0.59 g, 1.28 mmol) in CH2Cl2 (10.0 mL) at −30° C. was added bromotrimethylsilane (2.53 mL, 19.2 mmol). The reaction mixture was stirred at room temperature for 16 h and the solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (25.0 mL), cooled to −78° C. and to it was added BBr3 (19.0 mL, 19.0 mmol, 1.0 M solution in CH2Cl2). The reaction mixture was stirred at −78° C. for 10 min, allowed to warm to room temperature and stirred for 16 h. The reaction mixture was poured into ice, concentrated and extracted with ethyl acetate. The organic layer was washed with water (20 mL×2), dried over MgSO4 and filtered. The solvent was removed under reduced pressure to afford 3,5-dichloro-4-(3′-iso-propyl-4′-hydroxyphenoxy)benzylphosphonic acid as a brown solid (0.20 g, 40%): mp: 178-181° C.; LC-MS m/z=391 [C16H17Cl2O5P−H]−; 1H NMR (300 MHz, DMSO-d6): δ 9.08 (s, 1H), 7.48 (s, 2H), 6.72 (m, 2H), 6.25 (m, 1H), 3.18 (m, 1H), 3.00 (d, J=21.0 Hz, 2H), 3.11 (m, 1H), 1.14 (d, J=6.0 Hz, 6H); Anal. Calcd for (C16H17Cl2O5P+0.2 C4H8O2+0.5H2O): C, 48.30; H, 4.73. Found: C, 48.69, H, 5.16.

reactant | diethyl 3,5-dichloro-4-(3′-iso-propyl-4′-methoxyphenoxy)benzylphosphonate | 1.28 mmol, 0.59 g | ClC=1C=C(CP(OCC)(OCC)=O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl | C21H27Cl2O5P
reactant | bromotrimethylsilane | 19.2 mmol, 2.53 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | BBr3 | 19.0 mmol, 1.0 M, 19.0 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dichloro-4-(3′-iso-propyl-4′-hydroxyphenoxy)benzylphosphonic acid | 0.20 g, 40% | ClC=1C=C(CP(O)(O)=O)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Cl | C16H17Cl2O5P
